* gnetlist -g spice-sdb -o alpha.net alpha.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from 2N2222.LIB vvvvvvvv
******
* Spice Model
* Item: 2N2222
* Date: 5/06/2014
* Revision History: A
*==========================================================
* This model was developed by: 
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be modified, or altered without the consent of Central Semiconductor Corp. 
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
*==========================================================
******
*SRC=2N2222;2N2222;BJTs NPN; Si;  60V  0.800A  250MHz   Central Semi Central Semi
.MODEL 2N2222  NPN (IS=2.20f NF=1.00 BF=240 VAF=114
+ IKF=0.293 ISE=2.73p NE=2.00 BR=4.00 NR=1.00
+ VAR=24.0 IKR=0.600 RE=0.194 RB=0.777 RC=77.7m
+ XTB=1.5 CJE=24.9p VJE=1.10 MJE=0.500 CJC=12.4p VJC=0.300
+ MJC=0.300 TF=371p TR=64.0n EG=1.12 )
******
*^^^^^^^^  End of included SPICE model from 2N2222.LIB ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
V1 2 0 DC
Q1 2 1 0 2N2222 
I1 0 1 10u
.end
